US04324910
1-(2,2,2-trichloro-1-hydroxyethyl)-3-[2-(2,2,2-trichloro-1-hydroxyethoxy)-ethyl]urea
52 g (0.5 mole) of monoethanolurea was heated to 80° C.; 149.0 g (1.01 mole) of chloral was added dropwise thereto between 80°-90° C. with stirring and heated between 80°-90° C. for an additional hour. On cooling, a clear viscous liquid product was obtained that weighed 200 g.

reactant | monoethanolurea | 0.5 mole, 52 g | C(CO)NC(=O)N | C3H8N2O2
reactant | chloral | 1.01 mole, 149.0 g | O=CC(Cl)(Cl)Cl | C2HCl3O
product | 1-(2,2,2-trichloro-1-hydroxyethyl)-3-[2-(2,2,2-trichloro-1-hydroxyethoxy)-ethyl]urea | ClC(C(O)NC(=O)NCCOC(C(Cl)(Cl)Cl)O)(Cl)Cl | C7H10Cl6N2O4
